US04771046
0.63 ml of chloroacetonitrile was added to a solution of 23 mg of metallic sodium in 4 ml of absolute methanol, and the mixture was stirred for about 30 minutes at room temperature. 1.5 g of 4-hydroxyiminopiperidine hydrochloride were then added and the stirring was continued for 2 hours, during which time a precipitate separated out. 25 ml of anhydrous ether were added to the reaction mixture, and the precipitated crystals were collected by filtration and washed with ether, giving 2.22 g of 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylchloride hydrochloride.

reactant | chloroacetonitrile | 0.63 ml | ClCC#N | C2H2ClN
reactant | sodium | 23 mg | [Na] | Na
reactant | 4-hydroxyiminopiperidine hydrochloride | 1.5 g | Cl.ON=C1CCNCC1
solvent | methanol | 4 ml | CO | CH4O
product | 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylchloride hydrochloride | 2.22 g | Cl.ON=C1CCN(CC1)C(CCl)=N | InChI=1S/C7H12ClN3O.ClH/c8-5-7(9)11-3-1-6(10-12)2-4-11;/h9,12H,1-5H2;1H
